US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-β-phenyl-D-phenylalanine
TBTU (0.018 g, 0.056 mmol) was added to a solution of N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (0.025 g, 0.046 mmol) and N-methylmorpholine (0.023 g, 0.231 mmol) in CH2Cl2 (5 ml) at 30° C. After 1.5 h, β-phenyl-D-phenylalanine trifluoro acetic acid salt (0.033 g, 0.092 mmol) was added. The mixture was stirred for 5 minutes. Water (1 ml) was added and the mixture was concentrated. MeOH (3 ml) and NaBH4 (0.017 g, 0.462 mmol) were added. After 5 minutes, the reaction was quenched by the addition of 0.1M NH4OAc buffer (1 ml) followed by concentration of the mixture. Purification by preparative HPLC using an eluent of 0-45% CH3CN in 0.1M NH4OAc buffer and lyophilisation gave the title compound (0.021 g, 59%) as a colourless solid. M/z: 764.1 (M−1). 1H NMR [(CD3)2SO), 400 MHz] δ 2.82-2.95 (m, 2H), 3.42-3.49 (m, 1H), 3.66-3.74 (m, 1H), 4.25-4.33 (m, 2H), 4.42 (d, 1H), 4.47 (d, 1H), 4.69-4.76 (m, 1H), 5.03-5.12 (m, 2H), 6.94-7.38 (m, 2H), 8.10-8.14 (m, 1H), 8.18-8.24 (m, 1H).

reactant | TBTU | 0.056 mmol, 0.018 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.046 mmol, 0.025 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-methylmorpholine | 0.231 mmol, 0.023 g | CN1CCOCC1 | C5H11NO
reactant | β-phenyl-D-phenylalanine trifluoro acetic acid salt | 0.092 mmol, 0.033 g | FC(C(=O)O)(F)F.C1(=CC=CC=C1)C([C@@H](N)C(=O)O)C1=CC=CC=C1
reactant | NaBH4 | 0.462 mmol, 0.017 g | [BH4-].[Na+]
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 3 ml | CO | CH4O
solvent | Water | 1 ml | O | H2O
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl-β-phenyl-D-phenylalanine | 0.021 g, 59% | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@H](C(C2=CC=CC=C2)C2=CC=CC=C2)C(=O)O)C=C1 | C42H37F2N3O7S
